Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Lumbar spinal stenosis
 
Major Surgical or Invasive Procedure:
L4-S1 Laminectomy (___)

 
History of Present Illness:
History of Present Illness:  The patient is a ___
right-handed man with a history of prior R Bells palsy and L5/S1
disc disease, bipolar disorder, anxiety, depression with 
multiple
prior suicide attempts and restless leg syndrome who presents 
for
discussion regarding possible surgical intervention for
persistent LBP, LLE dysesthesia and possible neurogenic
claudication.

Pain Description: Pt states he is very uncomfortable, cannot 
walk
any length of distance without discomfort.  Cannot stand to wash
dishes for more than 15 minutes.  His pain has severely limited
his ability to participate in activities.  He states walking 
with
a cart in a grocery store improves his pain, going downstairs is
the same as going upstairs.

Patient was evaluated by our service before (dr. ___. A
conservative approach was recommended. Accordingly, during the
past year, patient was treated with pain management and ___. He 
is
currently s/p steroids injections as well as bilateral femoral
nerve RFA. He also completed a long (6 months) course of ___ and
hydrotherapy. Basically, nothing of these has helped. He is
currently on:
-Gabapentin ___
-ibuprofen 800 mg tablet q8hr PRN
-Tylenol 1gm HS
- Tylenol #3 PRN

Of note, he has had a significant weight gain after starting
Depakote for psychiatric reasons last year. His LLE paresthesia 
/
disesthesia were considered to be meralgia parasthetica.

 
Past Medical History:
MEDICAL & SURGICAL HISTORY:  
- Psoriasis with scalp and forehead involement.
- Major Depression: Diagnosed with major depression in ___. 
Hospitalized multiple times for depression. His first 
hospitalization occured in ___ after overdosing on a bottle of 
klonopin leading to a 3 week hospitalization. His most recent 
hospitalization was over the ___ and lasted 10 days. 
He has had two suicide attempts in the past, in ___ and ___ 
both through medication overdose.

PAST PSYCHIATRIC HISTORY: 
-Diagnoses: MDD

-Prior Hospitalizations: x5 on Deac 4, last time was ___ years
ago. Also at ___ ___ years ago.

-History of assaultive behaviors: No

-History of suicide attempts or self-injurious behavior: ___ years
ago patient took 30 clonidine in SA. 

-Prior med trials: "Many, only ECT really helped"
 
-Psychiatrist: Was Dr. ___ Dr ___ set 
up to meet with Dr ___. 

 
Family History:
His oldest sister suffers from depression and takes medications 
though the patient is unaware what she takes. She has never had 
ECT, hospitalizations or suicide attempts. She is disabeled 
after an accident left her with brain damage. 
 
Physical Exam:
Gen: middle-aged male in no acute distress
CV: palpable DP pulses bilaterally
Pulm: No respiratory distress on room air
Neuro:
Alert and oriented x3
Follows commands
Motor: IP Q HS TA ___ FHL
R:      ___  ___   5
L:      ___  ___   5
Sensory: L3 L4 L5 S1 S2
R:       nl nl nl nl nl
L:       nl nl nl nl nl

On Discharge:
Alert and oriented x3
Follows commands , UE ___ 
Motor: IP Q HS TA ___ FHL
R:      ___  ___   5
L:      ___  ___   5
INcision: c/d/I, staples in place, incision healing 
appropriately. Erythema surrounding incision suspicious for 
superficial soft tissue infection, started on course of Keflex. 
 
Pertinent Results:
Chest CTA ___
1. No evidence of pulmonary embolism or acute aortic 
abnormality. No evidence of pneumonia. 
2. Dilated main pulmonary artery raises the possibility of 
pulmonary 
hypertension. 
3. While a 2-3 mm right middle lobe nodule is probably unchanged 
since ___, a 2 mm nodule in the inferior aspect of the lingula 
was not seen on the prior study. Recommend correlation with 
patient risk factors in consideration of follow-up dedicated CT 
chest imaging, as below. 
4. Diffuse hepatic steatosis. 

CXR ___
No acute cardiopulmonary process. 

CHEST (PORTABLE AP) Study Date of ___ 8:12 AM 
IMPRESSION:  
1.  Low lung volumes with bronchovascular crowding and mild 
pulmonary vascular congestion. 

 
Brief Hospital Course:
#Lumbar stenosis 
The patient presented as a same day admission for surgery. The 
patient was taken to the operating room on ___ for L4-S1 
laminectomies, which the patient tolerated well. For full 
details of the procedure please see the separately dictated 
operative report. The patient was taken from the OR to the PACU 
in stable condition and after satisfactory recovery from 
anesthesia was transferred to the floor. The patient was 
initially given IV fluids and IV pain medications, and 
progressed to a regular diet and oral medications by POD#1. The 
patient was given ___ antibiotics per routine. The 
patient's home medications were continued throughout this 
hospitalization.  The patient worked with ___ who determined that 
discharge to rehab was appropriate.   He was discharged to ___ 
on POD#7 with instructions for follow up. 

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient 
will follow up with Dr. ___ routine. A thorough 
discussion was had with the patient regarding the diagnosis and 
expected post-discharge course including reasons to call the 
office or return to the hospital, and all questions were 
answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.

#Urinary tract infection 
Patient failed void trial x2. Started on Flomax for urinary 
retention. UA and culture positive for UTI so patient treated 
with a 7 day course of macrobid. 
 
#SSTI 
On POD#7 incisional edges noted to be erythematous concerning 
for superficial soft tissue infection, and patient was started 
on a 3 week course of Keflex. Incision appeared to be healing 
appropriately despite cellulitis.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen w/Codeine 1 TAB PO BID:PRN Pain - Moderate 
2. Chlorthalidone 25 mg PO DAILY 
3. Divalproex (DELayed Release) ___ mg PO QHS 
4. Gabapentin 600 mg PO TID 
5. Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
6. LamoTRIgine 75 mg PO QHS 
7. Mirtazapine 45 mg PO QHS 
8. Omeprazole 20 mg PO DAILY 
9. QUEtiapine Fumarate 200 mg PO QHS 
10. rOPINIRole 2 mg PO QHS 
11. Multivitamins 1 TAB PO DAILY 
12. Acetaminophen 500 mg PO Q6H:PRN Pain - Moderate 
13. Ascorbic Acid ___ mg PO DAILY 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
2.  Cephalexin 500 mg PO Q8H Duration: 21 Days 
started ___- stop ___  
3.  Diazepam 5 mg PO Q8H:PRN muscle spasm 
RX *diazepam 5 mg 1 tablet(s) by mouth Q8H PRN muscle spasm Disp 
#*20 Tablet Refills:*0 
4.  Heparin 5000 UNIT SC BID  
5.  Nitrofurantoin (Macrodantin) 100 mg PO Q12H Duration: 7 Days 

Stop date ___  
6.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q4-6H PRN pain Disp 
#*90 Tablet Refills:*0 
7.  Tamsulosin 0.4 mg PO QHS  
8.  Acetaminophen 500 mg PO Q6H:PRN Pain - Moderate  
9.  Ascorbic Acid ___ mg PO DAILY  
10.  Chlorthalidone 25 mg PO DAILY  
11.  Divalproex (DELayed Release) ___ mg PO QHS  
12.  Gabapentin 600 mg PO TID  
13.  LamoTRIgine 75 mg PO QHS  
14.  Mirtazapine 45 mg PO QHS  
15.  Multivitamins 1 TAB PO DAILY  
16.  Omeprazole 20 mg PO DAILY  
17.  QUEtiapine Fumarate 200 mg PO QHS  
18.  rOPINIRole 2 mg PO QHS  
19. HELD- Ibuprofen 600 mg PO Q8H:PRN Pain - Mild  This 
medication was held. Do not restart Ibuprofen until you are seen 
in follow up 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Lumbar Spinal Stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Surgery
•Your incision is closed with staples. You will need staple 
removal. Please keep your incision dry until staple removal.
*       You were discharged on a oral antibiotic, kelfex, for a 
concern for a superficial infection at your surgical incision. 
Please continue to take this for a 21 day course.
•Do not apply any lotions or creams to the site. 
•Please avoid swimming for two weeks after staple removal.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 

Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•You may take Ibuprofen/ Motrin for pain.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___